//
parameters nfin=14 rres=2k lastt=60n fin_n_diff2sing=4 fin_p_diff2sing=6 \
    width_n_diff2sing=10 width_p_diff2sing=15 fin_n_vco_type_2=4 \
    fin_p_vco_type_2=6 fnnn=25 fppp=4 VDD=0.8 VBIAS=0.7 wpppn=1 wnnn=1

// Library name: CAD_modules
// Cell name: diff2sing_v1
// View name: schematic
subckt diff2sing_v1 B VDD VSS in1 in2 o
parameters _ar0 _ar1 _ar2 _ar3
    P2 (net3 B net1 VDD) lvtpfet m=1 l=14n nfin=_ar0 nf=_ar1
    P5 (net1 B VDD VDD) lvtpfet m=1 l=14n nfin=_ar0 nf=_ar1
    P1 (o in2 net2 VDD) lvtpfet m=1 l=14n nfin=_ar0 nf=_ar1
    P4 (net2 in2 net3 VDD) lvtpfet m=1 l=14n nfin=_ar0 nf=_ar1
    P0 (net8 in1 net4 VDD) lvtpfet m=1 l=14n nfin=_ar0 nf=_ar1
    P3 (net4 in1 net3 VDD) lvtpfet m=1 l=14n nfin=_ar0 nf=_ar1
    N1 (net8 net8 net5 VSS) lvtnfet m=1 l=14n nfin=_ar2 nf=_ar3
    N3 (net5 net8 VSS VSS) lvtnfet m=1 l=14n nfin=_ar2 nf=_ar3
    N0 (o net8 net6 VSS) lvtnfet m=1 l=14n nfin=_ar2 nf=_ar3
    N2 (net6 net8 VSS VSS) lvtnfet m=1 l=14n nfin=_ar2 nf=_ar3
ends diff2sing_v1

subckt three_terminal_inv VDD VSS VBIAS VIN VOUT
parameters _ar0 _ar1 _ar2 _ar3 _ar4 _ar5
    N34 (VOUT VIN net1 VSS) lvtnfet m=1 l=14n nfin=_ar0 nf=_ar2
    N33 (net1 VIN VSS VSS) lvtnfet m=1 l=14n nfin=_ar0 nf=_ar2
    P34 (VOUT VBIAS net2 VDD) lvtpfet m=1 l=14n nfin=_ar3 nf=_ar4
    P33 (net2 VBIAS VDD VDD) lvtpfet m=1 l=14n nfin=_ar3 nf=_ar4
ends three_terminal_inv
// End of subcircuit definition.

// Library name: CAD_modules
// Cell name: VCO_type2_12
// View name: schematic
subckt VCO_type2_65 VDD VSS o\<1\> o\<2\> o\<3\> o\<4\> o\<5\> o\<6\> \
        o\<7\> o\<8\> op\<1\> VBIAS
parameters _ar0 _ar1 _ar2 _ar3 _ar4 _ar5
    I1\<1\> (VDD VSS VBIAS o\<1\> o\<2\>) three_terminal_inv _ar0=_ar0 \
        _ar1=_ar1 _ar2=_ar2 _ar3=_ar3 _ar4=_ar4 _ar5=_ar5
    I1\<2\> (VDD VSS VBIAS o\<2\> o\<3\>) three_terminal_inv _ar0=_ar0 \
        _ar1=_ar1 _ar2=_ar2 _ar3=_ar3 _ar4=_ar4 _ar5=_ar5
    I1\<3\> (VDD VSS VBIAS o\<3\> o\<4\>) three_terminal_inv _ar0=_ar0 \
        _ar1=_ar1 _ar2=_ar2 _ar3=_ar3 _ar4=_ar4 _ar5=_ar5
    I1\<4\> (VDD VSS VBIAS o\<4\> o\<5\>) three_terminal_inv _ar0=_ar0 \
        _ar1=_ar1 _ar2=_ar2 _ar3=_ar3 _ar4=_ar4 _ar5=_ar5
    I1\<5\> (VDD VSS VBIAS o\<5\> o\<6\>) three_terminal_inv _ar0=_ar0 \
        _ar1=_ar1 _ar2=_ar2 _ar3=_ar3 _ar4=_ar4 _ar5=_ar5
    I1\<6\> (VDD VSS VBIAS o\<6\> o\<7\>) three_terminal_inv _ar0=_ar0 \
        _ar1=_ar1 _ar2=_ar2 _ar3=_ar3 _ar4=_ar4 _ar5=_ar5
    I1\<7\> (VDD VSS VBIAS o\<7\> o\<8\>) three_terminal_inv _ar0=_ar0 \
        _ar1=_ar1 _ar2=_ar2 _ar3=_ar3 _ar4=_ar4 _ar5=_ar5
    I1\<8\> (VDD VSS VBIAS o\<8\> op\<1\>) three_terminal_inv _ar0=_ar0 \
        _ar1=_ar1 _ar2=_ar2 _ar3=_ar3 _ar4=_ar4 _ar5=_ar5
ends VCO_type2_65
// End of subcircuit definition.


// Main body of circuit:
subckt vco_dtype_12_hierarchical VDD VSS vbias oo\<1\> oo\<2\> oo\<3\> oo\<4\> oo\<5\> oo\<6\> oo\<7\> \
oo\<8\> on\<1\> on\<2\> on\<3\> on\<4\> on\<5\> on\<6\> on\<7\> on\<8\> op\<1\> op\<2\> op\<3\> op\<4\> op\<5\> \ 
op\<6\> op\<7\> op\<8\> 


I6\<1\> (VSS VDD VSS on\<1\> op\<1\> oo\<1\>) diff2sing_v1 \
        _ar0=fin_p_diff2sing _ar1=width_p_diff2sing \
        _ar2=fin_n_diff2sing _ar3=width_n_diff2sing
I6\<2\> (VSS VDD VSS on\<2\> op\<2\> oo\<2\>) diff2sing_v1 \
        _ar0=fin_p_diff2sing _ar1=width_p_diff2sing \
        _ar2=fin_n_diff2sing _ar3=width_n_diff2sing
I6\<3\> (VSS VDD VSS on\<3\> op\<3\> oo\<3\>) diff2sing_v1 \
        _ar0=fin_p_diff2sing _ar1=width_p_diff2sing \
        _ar2=fin_n_diff2sing _ar3=width_n_diff2sing
I6\<4\> (VSS VDD VSS on\<4\> op\<4\> oo\<4\>) diff2sing_v1 \
        _ar0=fin_p_diff2sing _ar1=width_p_diff2sing \
        _ar2=fin_n_diff2sing _ar3=width_n_diff2sing
I6\<5\> (VSS VDD VSS on\<5\> op\<5\> oo\<5\>) diff2sing_v1 \
        _ar0=fin_p_diff2sing _ar1=width_p_diff2sing \
        _ar2=fin_n_diff2sing _ar3=width_n_diff2sing
I6\<6\> (VSS VDD VSS on\<6\> op\<6\> oo\<6\>) diff2sing_v1 \
        _ar0=fin_p_diff2sing _ar1=width_p_diff2sing \
        _ar2=fin_n_diff2sing _ar3=width_n_diff2sing
I6\<7\> (VSS VDD VSS on\<7\> op\<7\> oo\<7\>) diff2sing_v1 \
        _ar0=fin_p_diff2sing _ar1=width_p_diff2sing \
        _ar2=fin_n_diff2sing _ar3=width_n_diff2sing
I6\<8\> (VSS VDD VSS on\<8\> op\<8\> oo\<8\>) diff2sing_v1 \
        _ar0=fin_p_diff2sing _ar1=width_p_diff2sing \
        _ar2=fin_n_diff2sing _ar3=width_n_diff2sing

I1 (VDD VSS op\<1\> op\<2\> op\<3\> op\<4\> op\<5\> op\<6\> op\<7\> \
        op\<8\> on\<1\> vbias) VCO_type2_65 _ar0=fin_n_vco_type_2 \
        _ar1=wnnn _ar2=fnnn _ar3=fin_p_vco_type_2 _ar4=fppp \
        _ar5=wpppn

I0 (VDD VSS on\<1\> on\<2\> on\<3\> on\<4\> on\<5\> on\<6\> on\<7\> \
        on\<8\> op\<1\> vbias) VCO_type2_65 _ar0=fin_n_vco_type_2 \
        _ar1=wnnn _ar2=fnnn _ar3=fin_p_vco_type_2 _ar4=fppp \
        _ar5=wpppn
ends vco_dtype_12_hierarchical

